US04457922
Preparation of 2,2-bis[4-[(ethoxy)(propylthio)phosphoryloxy]phenyl]propane
To a 250 ml round bottom flask equipped with a water condenser, drying tube, magnetic stirrer, and addition funnel was added 4,4'-isopropylidenediphenol (4.57 g, 20 mmol), triethylamine (4.24 g, 42 mmol), and acetonitrile (75 ml). The solution was cooled to 10° C. and O-ethyl S-n-propyl phosphorochloridothioate (8.30 g, 41 mmol) in acetonitrile (25 ml) was added dropwise over 15 minutes. The cooling bath was removed and the reaction warmed to 35° C. for 4 hours. The reaction was diluted with ether (500 ml) and washed successively with water (2×50 ml), 1M NaOH (2×50 ml), 1% HCl (2×50 ml), and brine (2×50 ml). The organic solution was dried (MgSO4) and concentrated under reduced pressure to give the desired product as a colorless oil (6.50 g, 10.8 mmol).

reactant | 4,4'-isopropylidenediphenol | 20 mmol, 4.57 g | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C15H16O2
reactant | triethylamine | 42 mmol, 4.24 g | C(C)N(CC)CC | C6H15N
reactant | O-ethyl S-n-propyl phosphorochloridothioate | 41 mmol, 8.30 g | P(OCC)(SCCC)(Cl)=O | C5H12ClO2PS
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 2,2-bis[4-[(ethoxy)(propylthio)phosphoryloxy]phenyl]propane | 10.8 mmol, 6.50 g | C(C)OP(=O)(SCCC)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OP(=O)(OCC)SCCC | C25H38O6P2S2
